US05750724
(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-[3-(5-fluoro-1H-indol-3-yl)-propyl]-amine
2,3-Dihydro-1,4-benzodioxin-2-methanamine hydrochloride (2.0 g, 10.0 mmole) in DMF (100 ml) was slowly added to the mixture of 5-fluoro-3-(3-bromopropyl)indole (2.6 g, 10.0 mmole) and diisopropylethylamine (8.7 ml, 50 mmole) in 100 ml of DMF with stirring and the mixture was heated at 80° C. for 24 hours. Most of DMF was removed and the residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The dichloromethane solution was dried over anhydrous sodium sulfate, filtered, concentrated in vacuum and column chromatographed on silica gel using ethyl acetate as the eluant. The combined fractions of free base of the expected product (0.5 g, 1.6 mmole, 15%) were concentrated, dissolved in 50 ml of ethanol-diethyl ether (1:1). To this was added 0.25M of fumaric acid in ethanol (3.4 ml, 0.85 mmole) and then a minimum amount of hexane to precipitate the title compound as a light tan solid, (2:1) fumarate salt, m.p. 186°-188° C.

reactant | 2,3-Dihydro-1,4-benzodioxin-2-methanamine hydrochloride | 10.0 mmole, 2.0 g | Cl.O1C(COC2=C1C=CC=C2)CN
reactant | 5-fluoro-3-(3-bromopropyl)indole | 10.0 mmole, 2.6 g | FC=1C=C2C(=CNC2=CC1)CCCBr | C11H11BrFN
reactant | diisopropylethylamine | 50 mmole, 8.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-[3-(5-fluoro-1H-indol-3-yl)-propyl]-amine | 1.6 mmole, 0.5 g, 15% | O1C(COC2=C1C=CC=C2)CNCCCC2=CNC1=CC=C(C=C21)F | C20H21FN2O2
